US04416683
Acetonitrile was reacted with 1-ethyl-1-methoxycarbonylcyclohexane in the presence of sodium hydride to provide 1-ethyl-1-(2-cyanoacetyl)cyclohexane. A 55 g portion of the latter compound was dissolved in 200 ml of diethyl ether containing 20.5 g of absolute methanol, and the solution was stirred and cooled to about 5° C. Hydrogen chloride gas was next bubbled through the reaction mixture for forty-five minutes, after which time the reaction mixture was stored at 0° C. for twelve hours. Removal of the reaction solvent by evaporation under reduced pressure provided a yellow solid, which was dissolved in 300 ml of fresh absolute methanol and treated with 97 g of triethylamine and 22 g of hydroxylamine hydrochloride. The reaction mixture was heated at 50° C. for three hours, and then cooled to room temperature and diluted with 25 ml of concentrated hydrochloric acid. The acidic reaction mixture was heated at 50° C. for twelve hours, and then cooled to room temperature and concentrated to dryness by evaporation of the solvent under reduced pressure. The residue thus obtained was dissolved in water, and the aqueous mixture was made alkaline by the addition of 20% sodium hydroxide. The product was extracted into diethyl ether, which was then washed with water, dried, and the solvent was removed by evaporation. Distillation of the product afforded 14 g of 3-amino-5-(1-ethylcyclohexyl)isoxazole. B.P. 135°-140° C. at 0.1-0.05 torr.

reactant | 1-ethyl-1-methoxycarbonylcyclohexane | C(C)C1(CCCCC1)C(=O)OC | C10H18O2
reactant | sodium hydride | [H-].[Na+]
reactant | Acetonitrile | C(C)#N | C2H3N
product | 1-ethyl-1-(2-cyanoacetyl)cyclohexane | C(C)C1(CCCCC1)C(CC#N)=O | C11H17NO
